US07718657B2
tert-Butyl 4-((4-(3-(6-methylpyridin-3-yl)ureido)benzo[d]oxazol-2-yl)methyl)piperazine-1-carboxylate.
To a room temperature solution of tert-butyl 4-((4-aminobenzo[d]oxazol-2-yl)methyl)piperazine-1-carboxylate (5.0 g, 15.1 mmol, 1.0 equiv) and triethylamine (2.1 g, 15.1 mmol, 1.0 equiv) in dry DCM (37 mL) was added 2-methyl-5-isocyanatopyridine (2.22 g, 16.6 mmol, 1.1 equiv) in dry DCM (37 mL) via cannula. After 1 h, the reaction mixture was filtered and washed with water (25 mL) and brine (25 mL). The solution was dried over sodium sulfate, filtered and concentrated in vacuo. Silica gel purification (5% MeOH/95% EtOAc—15% MeOH/85% EtOAc) provided the title compound as a white foam (7.03 g, 100%). LCMS [M+H]+=467.2.

reactant | tert-butyl 4-((4-aminobenzo[d]oxazol-2-yl)methyl)piperazine-1-carboxylate | 15.1 mmol, 5.0 g, 1.0 equiv | NC1=CC=CC2=C1N=C(O2)CN2CCN(CC2)C(=O)OC(C)(C)C | C17H24N4O3
reactant | triethylamine | 15.1 mmol, 2.1 g, 1.0 equiv | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-5-isocyanatopyridine | 16.6 mmol, 2.22 g, 1.1 equiv | CC1=NC=C(C=C1)N=C=O | C7H6N2O
solvent | DCM | 37 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 37 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-((4-(3-(6-methylpyridin-3-yl)ureido)benzo[d]oxazol-2-yl)methyl)piperazine-1-carboxylate | 7.03 g, 100% | CC1=CC=C(C=N1)NC(NC1=CC=CC2=C1N=C(O2)CN2CCN(CC2)C(=O)OC(C)(C)C)=O | C24H30N6O4
